US07981886B2
6-{[trans-4-(4-ethoxy-benzothiazole-2-carbonyl)-cyclohexylamino]-methyl}-4H-benzo[1,4]oxazin-3-one
The title compound was prepared according to the same protocol as that described for example 1, steps 1.a to 1.c, starting from 4-ethoxy-benzothiazole (5 mmol), [trans-4-(methoxy-methyl-carbamoyl)-cyclohexyl]-carbamic acid tert-butyl ester (2.5 mmol) and 3-oxo-3,4-dihydro-2H-benzo[1,4]oxazine-6-carbaldehyde (0.3 mmol). A yellowish solid (9 mg) was obtained.

reactant | 4-ethoxy-benzothiazole | 5 mmol | C(C)OC1=CC=CC2=C1N=CS2 | C9H9NOS
reactant | [trans-4-(methoxy-methyl-carbamoyl)-cyclohexyl]-carbamic acid tert-butyl ester | 2.5 mmol | C(C)(C)(C)OC(N[C@@H]1CC[C@H](CC1)C(N(C)OC)=O)=O | C14H26N2O4
reactant | 3-oxo-3,4-dihydro-2H-benzo[1,4]oxazine-6-carbaldehyde | 0.3 mmol | O=C1COC2=C(N1)C=C(C=C2)C=O | C9H7NO3
product | 6-{[trans-4-(4-ethoxy-benzothiazole-2-carbonyl)-cyclohexylamino]-methyl}-4H-benzo[1,4]oxazin-3-one | C(C)OC1=CC=CC2=C1N=C(S2)C(=O)[C@@H]2CC[C@H](CC2)NCC=2C=CC1=C(NC(CO1)=O)C2 | C25H27N3O4S
